US09085541B2
Step 1: Synthesis of 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzaldehyde
A reaction autoclave was charged with 3-(4-bromo-3-methyl-phenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole (0.10 g, 0.22 mmol), palladium dichloride cyclooctadiene complex (1.6 mg, 2.5 mol-%), xanthphos (9.7 mg, 7.5 mol-%), N,N,N′,N′-tetramethylethylene diamine (19.3 mg, 0.75 equiv.) and DMF (2 mL) and purged with synthesis gas (carbon monoxide:hydrogen=1:1) to 5 bar. The reaction autoclave was heated to 100° C. for 16 h and then cooled to ambient temperature. After release of the pressure, the reaction mixture was concentrated under reduced pressure and the residue was purified by flash chromatography on silica gel to yield the title compound (13 mg, 15%).

reactant | 3-(4-bromo-3-methyl-phenyl)-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole | 0.22 mmol, 0.10 g | BrC1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C | C17H11BrCl2F3NO
reactant | xanthphos | 7.5 mol, 9.7 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | N,N,N′,N′-tetramethylethylene diamine | 19.3 mg, 0.75 equiv. | CN(CCN(C)C)C | C6H16N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzaldehyde | 13 mg, 15% | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=O)C=C1)C)C(F)(F)F | C18H12Cl2F3NO2
